US04588749
N-(3-(4-Methylphenyl)propyl)-2-hydroxy-2-(3-chlorophenyl)ethanamine
The title compound was prepared in the manner described in Example 9 using 3-chlorophenylglyoxal and 3-(4-methylphenyl)propanamine. Recrystallisation of the chromatographed material from ether gave the title compound, mp 115°-117.5°.

reactant | 3-chlorophenylglyoxal | ClC=1C=C(C=CC1)C(=O)C=O | C8H5ClO2
reactant | 3-(4-methylphenyl)propanamine | CC1=CC=C(C=C1)CCCN | C10H15N
product | N-(3-(4-Methylphenyl)propyl)-2-hydroxy-2-(3-chlorophenyl)ethanamine | CC1=CC=C(C=C1)CCCNCC(C1=CC(=CC=C1)Cl)O | C18H22ClNO
